US07910592B2
A suspension of 10% palladium on carbon (4.0 mg) in a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-nitro-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one (21.3 mg, 0.0321 mmol) in EtOAc (2.5 mL) was stirred under H2 (double balloon pressure) overnight. The reaction mixture was filtered through a plug of Celite and the filtrate was concentrated in vacuo to afford (4S,5R)-3-{[5-amino-3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-naphthyl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=635.2; found=634.8 (M+1)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-nitro-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.0321 mmol, 21.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC(=C2C=C1C1=C(C=C(C(=C1)C(C)C)F)OC)[N+](=O)[O-])C)(F)F | C33H27F7N2O5
catalyst | palladium on carbon | 4.0 mg | [Pd] | Pd
solvent | EtOAc | 2.5 mL | CCOC(=O)C | C4H8O2
product | (4S,5R)-3-{[5-amino-3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-naphthyl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | NC1=C2C=C(C(=CC2=CC=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=C(C=C(C(=C1)C(C)C)F)OC | C33H29F7N2O3
